US08466181B2
e) 1-(4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone
A mixture of 4-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-[1,2,3]triazole (73 mg, 0.30 mmol), 4-fluoroacetophenone (37 μL, 0.30 mmol) and potassium carbonate (83 mg, 0.60 mmol) in DMF (1.5 mL) was stirred under Ar in a sealed flask and heated at 120° C. for 16 h. After cooling to room temperature the mixture was poured into water and extracted with ethyl acetate and the combined extracts washed with water, brine, dried over sodium sulphate, filtered and evaporated. Purification by chromatography (silica, 0 to 100% ethyl acetate in heptane) afforded the title compound (51 mg, 47%) as an off white solid after recrystallisation from ethyl acetate. MS: m/e=362.2 [M+H]+.

reactant | 4-(4-fluoro-phenyl)-5-(1H-imidazol-4-yl)-1-methyl-1H-[1,2,3]triazole | 0.30 mmol, 73 mg | FC1=CC=C(C=C1)C=1N=NN(C1C=1N=CNC1)C | C12H10FN5
reactant | 4-fluoroacetophenone | 0.30 mmol, 37 μL | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | potassium carbonate | 0.60 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | 1-(4-{4-[5-(4-Fluoro-phenyl)-3-methyl-3H-[1,2,3]triazol-4-yl]-imidazol-1-yl}-phenyl)-ethanone | 51 mg, 47% | FC1=CC=C(C=C1)C1=C(N(N=N1)C)C=1N=CN(C1)C1=CC=C(C=C1)C(C)=O | C20H16FN5O
